US07442709B2
6-(4-Benzyloxyphenylamino)-5-nitronicotinic acid methyl ester (XXIV):
To a solution of 6-chloro-5-nitro-nicotinic acid methyl ester (216 mg, 1.0 mmol) and 4-benzyloxyaniline hydrochloride (280 mg, 1.2 mmol) in MeOH (10 mL) was added iPr2NEt (0.35 mL, 2.0 mmol). The resulting mixture was stirred at rt overnight, a red solid precipitated from the mixture, which was collected by filtration. MS (ES, Pos.): m/z 380 [MH+]. 1H NMR (CDCl3, 400 MHz): δ=3.94 (s, 3H), 5.10 (s, 2H), 7.03 (d, J=8.8 Hz, 2H), 7.38-7.46 (m, 5H), 7.50 (d, J=8.8 Hz, 2H), 9.01 (d, J=2.0 Hz, 1H), 9.08 (d, J=2.0 Hz, 1H), 10.2 (br s, 1H).

reactant | 6-chloro-5-nitro-nicotinic acid methyl ester | 1.0 mmol, 216 mg | COC(C1=CN=C(C(=C1)[N+](=O)[O-])Cl)=O | C7H5ClN2O4
reactant | 4-benzyloxyaniline hydrochloride | 1.2 mmol, 280 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | iPr2NEt | 2.0 mmol, 0.35 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 10 mL | CO | CH4O
product | 6-(4-Benzyloxyphenylamino)-5-nitronicotinic acid methyl ester | COC(C1=CN=C(C(=C1)[N+](=O)[O-])NC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C20H17N3O5
